US06444685B1
4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-N-(2-hydroxyethyl)-benzenesulfonamide
The title compound was prepared according to the procedure of Intermediate 24 from 2.28 g (15.6 mmol) of 1,4-dioxa-8-aza-spiro[4.5]decane and 2.85 g (13.0 mmol) of 4-fluoro-N-(2-hydroxyethyl)-benzenesulfonamide, yielding 3.0 g of a colorless gum; MS (ES) m/z 343.2 (MH+); HRMS (EI) Calcd. for C15H22N2O5S (M+): 342.1249, Found: 342.1235.

reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 15.6 mmol, 2.28 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 4-fluoro-N-(2-hydroxyethyl)-benzenesulfonamide | 13.0 mmol, 2.85 g | FC1=CC=C(C=C1)S(=O)(=O)NCCO | C8H10FNO3S
product | 4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-N-(2-hydroxyethyl)-benzenesulfonamide | O1CCOC12CCN(CC2)C2=CC=C(C=C2)S(=O)(=O)NCCO | C15H22N2O5S
